US04894386
E,E-N-(2-Chlorophenylsulfonyl)-4-[3,6-di(3-oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]-3-methoxybenzamide
Using a similar procedure to that described in Example 32, except starting from E,E-4-[3,6-di-(3oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]- 3-methoxybenzoic acid, and using 2-chlorobenzenesulfonamide, title compound was obtained (87%) as powder, mp 291°-293°.

reactant | E,E-4-[3,6-di-(3oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]- 3-methoxybenzoic acid | O=C(/C=C/C1=CN(C2=CC(=CC=C12)\C=C\C(=O)N1CCCC1)CC1=C(C=C(C(=O)O)C=C1)OC)N1CCCC1 | C31H33N3O5
reactant | 2-chlorobenzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
product | E,E-N-(2-Chlorophenylsulfonyl)-4-[3,6-di(3-oxo-3-pyrrolidino-1-propenyl)indol-1-ylmethyl]-3-methoxybenzamide | ClC1=C(C=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)CN1C=C(C2=CC=C(C=C12)\C=C\C(=O)N1CCCC1)\C=C\C(N1CCCC1)=O)OC)=O | C37H37ClN4O6S
